US04220751
Urea-isobutyraldehyde (molar ratio 1:3) Resin
864 Parts of isobutyraldehyde, 800 parts of xylene and 240 parts of urea are mixed, and heated to the boil, in a stirred flask equipped with a condenser, water separator, thermometer and dropping funnel. 50 Parts of 75% strength sulfuric acid are added dropwise in the course of about 10 minutes and the mixture is then stirred for 5 hours at the boil. The resulting water (158 parts) is removed via the water separator. During the condensation reaction, the temperature rises to 123°-125° C. The mixture is then cooled to 80° C. and neutralized with about 50 parts of 50% strength sodium hydroxide solution, and further water is removed at the boil until the temperature reaches 132°-135° C. 60 Parts of 30% strength sodium methylate solution in methanol are then added to the contents of the flask, which are stirred for 1 hour at the boil (112°-115° C.). The mixture is then cooled to 60° C., neutralized with 75% strength sulfuric acid and washed with 1,000 parts of water at 80° C. After separating off the wash water, the solvent is distilled from the xylene phase under reduced pressure (20-25 mm Hg), the temperature in the flask being 175° C.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | urea | NC(=O)N | CH4N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | Urea isobutyraldehyde | NC(=O)N.C(C(C)C)=O | InChI=1S/C4H8O.CH4N2O/c1-4(2)3-5;2-1(3)4/h3-4H,1-2H3;(H4,2,3,4)
